US03951959
A solution of 250 mg. of 1,3-dihydroxy-8α-estra-1,3,5(10)-trien-17-one in 6.5 ml. of dimethyl sulfoxide is mixed under cooling and nitrogen with 250 mg. of NaH (50% suspension in oil), and agitated for 30 minutes at room temperature. A solution of 1.05 g. of diethylaminosulfonyl chloride in 2 ml. of dimethyl sulfoxide is then added to the mixture, and the latter is agitated for 25 hours at room temperature. The mixture is introduced into acetic ice water (NaCl), the organic substances are extracted with ether, and the extracts are washed, dried, and evaporated. After purificationby chromatography, 150 mg. of 1,3-bis(diethylaminosulfonyloxy)-8α-estra-1,3,5(10)-trien-17-one is produced.

reactant | 1,3-dihydroxy-8α-estra-1,3,5(10)-trien-17-one | OC1=CC(=CC=2CC[C@@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C12)=O)O | C18H22O3
reactant | NaH | [H-].[Na+]
reactant | diethylaminosulfonyl chloride | C(C)N(S(=O)(=O)Cl)CC | C4H10ClNO2S
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 1,3-bis(diethylaminosulfonyloxy)-8α-estra-1,3,5(10)-trien-17-one | C(C)N(S(=O)(=O)OC1=CC(=CC=2CC[C@@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C12)=O)OS(=O)(=O)N(CC)CC)CC | C26H40N2O7S2
